US06638929B2
To a suspension of 189.1 mg (0.50 mmol) of 4-(2,4-dichloroanilino)-7-hydroxybenzo[g]quinoline-3-carbonitrile, 207.2 mg (0.79mmol) of triphenylphosphine and 66.9 mg (0.75 mmol) of 2-(dimethylamino)-ethanol in 3.0 mL of anhydrous methylene chloride at 0° C. is added dropwise diethyl azodicarboxylate. The resulting reaction mixture is stirred at room temperature under nitrogen for 2 days. The solvent is concentrated in vacuo and the residue is purified on preparative thin layer chromatography (developing solvent: 9:1 methylene chloride/methanol) to provide 46.3 mg (20.5%) of 4-(2,4-dichloroanilino)-7-[2-(dimethylamino)ethoxy]benzo[g]quinoline-3-carbonitrile as a yellow solid, mp 115-117° C.

reactant | 4-(2,4-dichloroanilino)-7-hydroxybenzo[g]quinoline-3-carbonitrile | 0.50 mmol, 189.1 mg | ClC1=C(NC2=C(C=NC3=CC4=C(C=C23)C=C(C=C4)O)C#N)C=CC(=C1)Cl | C20H11Cl2N3O
reactant | triphenylphosphine | 0.79mmol, 207.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(dimethylamino)-ethanol | 0.75 mmol, 66.9 mg | CN(CCO)C | C4H11NO
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,4-dichloroanilino)-7-[2-(dimethylamino)ethoxy]benzo[g]quinoline-3-carbonitrile | 46.3 mg, 20.5% | ClC1=C(NC2=C(C=NC3=CC4=C(C=C23)C=C(C=C4)OCCN(C)C)C#N)C=CC(=C1)Cl | C24H20Cl2N4O
